US06156700
Preparation of Diethyl{{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}phosphonate
A mixture of 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (1.00 g, 0.00240 mol) in diethyl ether is cooled to 10° C., treated dropwise with triethyl phosphite (0.580 mL, 0.00340 mol), stirred at 10° C. for 90 minutes, diluted with 10 mL of tetrahydrofuran, stirred at room temperature overnight, refluxed for 1 day, cooled, partially concentrated in vacuo and diluted with methylene chloride. The resultant organic solution is washed with water, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a yellow solid. Flash column chromatography of the solid using silica gel and a diethyl ether/methylene chloride solution (1:1) gives the title product as a white solid (0.930 g, mp 142-144° C.).

reactant | 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.00240 mol, 1.00 g | BrCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H9BrF3N3O2S
reactant | triethyl phosphite | 0.00340 mol, 0.580 mL | P(OCC)(OCC)OCC | C6H15O3P
reactant | diethyl ether methylene chloride | C(C)OCC.C(Cl)Cl
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Diethyl{{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}phosphonate | 0.930 g | C(C)OP(OCC)(=O)CC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C18H19F3N3O5PS
